US03956297
In the manner given in Example 1, 8-trifluoromethyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione is treated with amino acetaldehyde dimethyl acetal in n-butanol to give 8-trifluoromethyl-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino] acetaldehyde dimethyl acetal.

reactant | 8-trifluoromethyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione | FC(C=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C1)(F)F | C14H9F3N2S
reactant | amino acetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
solvent | n-butanol | C(CCC)O | C4H10O
product | 8-trifluoromethyl-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino] acetaldehyde dimethyl acetal | COC(CNC=1C2=C(NC3=C(N1)C=C(C=C3)C(F)(F)F)C=CC=C2)OC | C18H18F3N3O2
